US06200976B1
4-{[6-(N-methoxycarbonylmethyl-quinolin-8-yl-sulphonylamino]-1-methyl-2-oxo-1,2-dihydroquinoxalin-3-yl]-methyl}-N′-ethoxy-carbonyl-benzamidine
450 mg (0.74 mmol) of 4-{[6-(N-methoxycarbonylmethyl-quinolin-8-yl-sulphonylamino)-1-methyl-2-oxo-1,2-dihydroquinoxalin-3-yl]-methyl}benzamidine-hydrochloride are dissolved in 30 ml tetrahydrofuran and 5 ml water and after the addition of 0.3 g (2.2 mmol) of potassium carbonate, stirred for 10 minutes at ambient temperature. Then 0.07 ml (0.74 mmol) of ethyl chloroformate are added and stirred for a further 1 hour. The aqueous phase is separated off, the organic phase is dried and evaporated down.

reactant | 4-{[6-(N-methoxycarbonylmethyl-quinolin-8-yl-sulphonylamino)-1-methyl-2-oxo-1,2-dihydroquinoxalin-3-yl]-methyl}benzamidine-hydrochloride | 0.74 mmol, 450 mg | Cl.COC(=O)CN(C=1C=C2N=C(C(N(C2=CC1)C)=O)CC1=CC=C(C(=N)N)C=C1)S(=O)(=O)C=1C=CC=C2C=CC=NC12
reactant | water | 5 ml | O | H2O
reactant | potassium carbonate | 2.2 mmol, 0.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl chloroformate | 0.74 mmol, 0.07 ml | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-{[6-(N-methoxycarbonylmethyl-quinolin-8-yl-sulphonylamino]-1-methyl-2-oxo-1,2-dihydroquinoxalin-3-yl]-methyl}-N′-ethoxy-carbonyl-benzamidine | COC(=O)CN(C=1C=C2N=C(C(N(C2=CC1)C)=O)CC1=CC=C(C(=NOCC)N=C=O)C=C1)S(=O)(=O)C=1C=CC=C2C=CC=NC12 | C32H28N6O7S
